US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-N-(1,5-dimethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide
A solution of N-(1,5-dimethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide (0.62 mmol) in acetonitrile (5 mL), was treated with potassium carbonate (1.24 mmol) and 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine (0.68 mmol), before being heated to 120° C. in a microwave reactor for 4.5 hours. The mixture was evaporated in vacuo, before being partitioned between DCM (20 mL) and water (20 mL). The organics were evaporated in vacuo then chromatographed on silica, eluting with 0-10% methanol in ethyl acetate, to give the desired compound as a white foam (160 mg).

reactant | N-(1,5-dimethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 0.62 mmol | CN1N=C(C=C1C)NC(C1=CC(=CC(=C1)O[C@H](COC)C)O)=O | C16H21N3O4
reactant | potassium carbonate | 1.24 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine | 0.68 mmol | N1(CCC1)C(=O)C=1C=C(C(=NC1)Cl)Cl | C9H8Cl2N2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-N-(1,5-dimethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 160 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NN(C(=C2)C)C)C=C(C1)O[C@H](COC)C)Cl | C25H28ClN5O5
